US07906660B2
Isoflav-3-ene-7-ol was prepared from 7-acetoxyisoflav-3-ene (0.2 g, 0.75 mmol) and imidazole (0.24 g) in ethanol (3.5 ml) as described for isoflav-3-ene-4′,7-diol. Yield: (0.11 g, 66%) m.p. 120° C. 1H NMR (d6-DMSO): δ 5.07 (s, 2H, H2), 6.24 (d, 1H, J 2.2 Hz, H8), 6.33 (dd, 1H, J 1.9 Hz, 7.9 Hz, H6), 6.96 (d, 1H, J 7.9 Hz, H5), 7.00 (s, 1H, H4), 7.26-7.47 (m, 5H, ArH), 9.65 (bs, 1H, OH). Mass spectrum: m/z 224 (m, 74%); 223 (100), 175 (28); 165 (23); 147 (41).

reactant | 7-acetoxyisoflav-3-ene | 0.75 mmol, 0.2 g | C(C)(=O)OC1=CC=C2C=C(COC2=C1)C1=CC=CC=C1 | C17H14O3
reactant | imidazole | 0.24 g | N1C=NC=C1 | C3H4N2
reactant | isoflav-3-ene-4′,7-diol | O1CC(=CC2=CC=C(C=C12)O)C1=CC=C(C=C1)O | C15H12O3
solvent | ethanol | 3.5 ml | C(C)O | C2H6O
product | Isoflav-3-ene-7-ol | O1CC(=CC2=CC=C(C=C12)O)C1=CC=CC=C1 | C15H12O2
